US04629737
To a stirred solution of N-[2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine (0.50 g; 85:15 mixture of diastereoisomers) in dry tetrahydrofuran (20 ml) was added borane-methyl sulphide complex (2 ml), under nitrogen. The solution was boiled under reflux for 3 hours, and after cooling to room temperature, methanol (6 ml) was added. This solution was allowed to stand overnight at room temperature, boiled under reflux for 1 hour, cooled, and hydrogen chloride gas passed through for 10 minutes. After dilution with diethyl ether, cooling to 0° C. and filtering, N-[2-(4-(2-methylaminoethoxy)phenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine dihydrochloride, mp 270°-273° C. (methanol-ethyl acetate), was obtained as a single diastereoisomer.

reactant | N-[2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine | 0.50 g | CNC(=O)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC | C21H27ClN2O3
reactant | methanol | 6 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[2-(4-(2-methylaminoethoxy)phenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine dihydrochloride | Cl.Cl.CNCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC | InChI=1S/C21H29ClN2O2.2ClH/c1-16(13-17-7-9-20(10-8-17)26-12-11-23-2)24-15-21(25-3)18-5-4-6-19(22)14-18;;/h4-10,14,16,21,23-24H,11-13,15H2,1-3H3;2*1H
